US05068449
Preparation of ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3ethoxyacrylate
Into a 200 cc glass reactor equipped with a stirrer, 26.3 g of ethyl 2-chloro-4,5-difluorobenzoylacetate, 23.7 g of ethyl ortho-formate and 40 ml of acetic anhydride were charged, and reacted at a reaction temperature of from 120° to 135° C. After completion of the reaction, the reaction mixture was concentrated by distillation under reduced pressure to obtain 31.5 g of the desired compound as the residue.

reactant | ethyl 2-chloro-4,5-difluorobenzoylacetate | 26.3 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9ClF2O3
reactant | ethyl ortho-formate | 23.7 g | C(OCC)([O-])[O-]
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3ethoxyacrylate | 31.5 g | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1)F)F | C14H13ClF2O4
